US05965730
3,4-Dimethoxy-6-(2-bromoisonicotinoyl)benzaldehyde dimethyl acetal (13.9 g) and 2 M hydrochloric acid (1 ml) are added to a mixture of acetone (30 ml) and water (5 ml), and the mixture is stirred at room temperature for two hours. The mixture is evaporated to remove the acetone, and the remaining aqueous layer is extracted with chloroform. The extract is washed, dried, and concentrated. The residue is purified by silica gel column chromatography (solvent; chloroform:ethyl acetate=4:1) to give 3,4-dimethoxy-6-(2-bromoisonicotinoyl)benzaldehyde (8.65 g).

reactant | 3,4-Dimethoxy-6-(2-bromoisonicotinoyl)benzaldehyde dimethyl acetal | 13.9 g | COC(C1=CC(=C(C=C1C(C1=CC(=NC=C1)Br)=O)OC)OC)OC | C17H18BrNO5
reactant | hydrochloric acid | 2 M, 1 ml | Cl | ClH
reactant | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | 5 ml | O | H2O
product | 3,4-dimethoxy-6-(2-bromoisonicotinoyl)benzaldehyde | 8.65 g | COC=1C=C(C=O)C(=CC1OC)C(C1=CC(=NC=C1)Br)=O | C15H12BrNO4
